US07863310B2
3-(2,4-Difluorophenyl)-1-trityl-1H-pyrazole
Add triphenylmethylchloride (4.78 g, 17.2 mmol)) and dimethylaminopyridine (0.350 g, 2.86 mmol) to a stirred solution of 3-(2,4-difluorophenyl)-1H-pyrazole (2.58 g, 14.33 mmol) in dry pyridine (30 mL). Stir at 80° C. for about 18 hours. Cool to RT, concentrate and purify (silica gel chromatography, eluting with a gradient of hexane dichloromethane 25:75 to 0:100) to give the desired compound (43%).

reactant | triphenylmethylchloride | 17.2 mmol, 4.78 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | dimethylaminopyridine | 2.86 mmol, 0.350 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-(2,4-difluorophenyl)-1H-pyrazole | 14.33 mmol, 2.58 g | FC1=C(C=CC(=C1)F)C1=NNC=C1 | C9H6F2N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2,4-Difluorophenyl)-1-trityl-1H-pyrazole | 43% | FC1=C(C=CC(=C1)F)C1=NN(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H20F2N2
